US07504410B2
Synthesis of N-[3-[[5-bromo-4-[[3-[(propylsulfonyl)amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide
To a solution of N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide (150 mg, 0.30 mmol) in dichloromethane (4 mL) was added DIEA (0.16 mL, 0.92 mmol) and DMAP (1.4 mg, 0.011 mmol) at 0° C., then a solution of 1-propanesulfonyl chloride (51 mg, 0.36 mmol) in dichloromethane (5 mL) was added. The resulting reaction mixture was stirred at 0° C. for 1 h and at room temperature overnight. The reaction mixture was concentrated. Purification by HPLC using acetonitrile/water gave the title compound (67 mg).

reactant | N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide | 0.30 mmol, 150 mg | NCCCNC1=NC(=NC=C1Br)NC=1C=C(C=CC1)NC(=O)N1CCCC1 | C18H24BrN7O
reactant | DIEA | 0.92 mmol, 0.16 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-propanesulfonyl chloride | 0.36 mmol, 51 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.011 mmol, 1.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[3-[[5-bromo-4-[[3-[(propylsulfonyl)amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide | 67 mg | BrC=1C(=NC(=NC1)NC=1C=C(C=CC1)NC(=O)N1CCCC1)NCCCNS(=O)(=O)CCC | C21H30BrN7O3S
